US04959364
1-(1-oxo-2-propenyl)-4-(phenylmethyl)piperazine
A solution of acryloyl chloride (4.52 g, 0.05 mole) in 25 ml of ethyl ether was added to a cold solution of 1-benzylpiperazine (8.8 g, 0.05 mole) and triethylamine (30 ml, 0.20 mole) in 500 ml of ethyl ether. A white precipitate formed. The reaction mixture was stirred overnight, filtered and the precipitate washed well with ethyl ether. The solvent and triethylamine were removed and the product chromatrographed on silica, eluting with ethyl acetate/hexane [30:70(v/v)] to yield 1.5 g of the title compound. The structure was confirmed by NMR.

reactant | acryloyl chloride | 0.05 mole, 4.52 g | C(C=C)(=O)Cl | C3H3ClO
reactant | 1-benzylpiperazine | 0.05 mole, 8.8 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 0.20 mole, 30 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 500 ml | C(C)OCC | C4H10O
product | 1-(1-oxo-2-propenyl)-4-(phenylmethyl)piperazine | 1.5 g | O=C(C=C)N1CCN(CC1)CC1=CC=CC=C1 | C14H18N2O
